US03989694
7-Amino-3-(4-carboxy-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid
4-Carboxy-1,2,3-triazole-5-thiol trisodium salt hydrate (4.4 g., 20 mmol.) was added to a stirred suspension of 4.08 g. (15 mmol.) of 7-aminocephalosporanic acid in 30 ml. of water and 15 ml. of acetone. The reaction mixture was quickly acidified to pH 7.3 with dilute hydrochloric acid, then heated at 65° for 4.5 hours. The mixture was cooled (ice bath), brought to pH 2.4 with dilute hydrochloric acid and the precipitate was collected, washed with water and acetone and dried in vacuo over phosphorus pentoxide to give the title compound.

reactant | 4-Carboxy-1,2,3-triazole-5-thiol trisodium salt hydrate | 20 mmol, 4.4 g | O.[Na].[Na].[Na].C(=O)(O)C=1N=NNC1S
reactant | 7-aminocephalosporanic acid | 15 mmol | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 7-Amino-3-(4-carboxy-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=C(N=NN2)C(=O)O)C(=O)O)C1=O | C11H11N5O5S2
